US06951875B2
b) 6-[2-(4-Chloro-phenyl)-vinyl]-pyridine-2-carbonitrile
Following the general method described in example 2b, 2-[2-(4-chloro-phenyl)-vinyl]-pyridine 1-oxide was reacted first with dimethylsulfate and then with NaCN. After extraction and crystallization the title compound was obtained as a beige crystalline material. Mp. 113-115° C.(isopropanol), MS: m/e=240 (M+).

reactant | 2-[2-(4-chloro-phenyl)-vinyl]-pyridine 1-oxide | ClC1=CC=C(C=C1)C=CC1=[N+](C=CC=C1)[O-] | C13H10ClNO
reactant | dimethylsulfate | COS(=O)(=O)OC | C2H6O4S
reactant | NaCN | [C-]#N.[Na+]
solvent | isopropanol | C(C)(C)O | C3H8O
product | 6-[2-(4-Chloro-phenyl)-vinyl]-pyridine-2-carbonitrile | ClC1=CC=C(C=C1)C=CC1=CC=CC(=N1)C#N | C14H9ClN2
